
* INA126
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA126
* Date: 08JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS062A – JANUARY 1996 – REVISED AUGUST 2005
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* COMMENTS
* Connections:   Rg
*                | negative input
*                | | positive input
*                | | | negative power supply
*                | | | | ref
*                | | | | |  output
*                | | | | | | positive power supply
*                | | | | | | | Rg
*                | | | | | | | |
*****************************************************************************
.subckt INA126   1 2 3 4 5 6 7 8 
 x1        2 1 7 4 222 5    opamp1
 x2        3 8 7 4 6 222    opamp2
.ends INA126
*
* INA126 operational amplifier "macromodel" subcircuits:
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | | ref input
*                | | | | | |
.subckt OPAMP1   1 2 3 4 5 22 
*
  c1   11 12 2.9E-12
  c2    6  7 12.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 42.44E6 -42E6 42E6 42E6 -42E6
  ga    6  0 11 12 94.25E-6
  gcm   0  6 10 99 942.5E-12
  iee   3 10 dc 6.040E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   4 11 10.61E3
  rc2   4 12 10.61E3
  re1  13 10 1.976E3
  re2  14 10 1.976E3
  ree  10 99 33.11E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 379.8E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 2
  vln   0 92 dc 2
.model dx D(Is=800.0E-18)
.model qx PNP(Is=800.0E-18 Bf=150)
*     FEEDBACK RESISTORS
  RFB1    2 22    40K
  RFB2    2 5     10K
.ends
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | | ref input
*                | | | | | |
.subckt OPAMP2   1 2 3 4 5 22
*
  c1   11 12 2.9E-12
  c2    6  7 12.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 42.44E6 -42E6 42E6 42E6 -42E6
  ga    6  0 11 12 94.25E-6
  gcm   0  6 10 99 942.5E-12
  iee   3 10 dc 6.040E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   4 11 10.61E3
  rc2   4 12 10.61E3
  re1  13 10 1.976E3
  re2  14 10 1.976E3
  ree  10 99 33.11E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 379.8E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 2
  vln   0 92 dc 2
.model dx D(Is=800.0E-18)
.model qx PNP(Is=800.0E-18 Bf=150)
*     FEEDBACK RESISTORS
  RFB3    2 22   10K
  RFB4    2 5    40K
.ends